US07396933B2
(R)-Epichlorohydrin (3.10 mL, 39.5 mmol) was added to a stirred solution of piperazine sulfonamide trifluoroacetic acid (10.0 g, 35.9 mmol) and NN-diisopropyl-ethylamine (6.26 mL, 35.9 mmol) in ethanol (150 mL) at room temperature. The reaction mixture was stirred for 18 h and a further amount of (R)-epichlorohydrin was added (0.28 mL, 3.6 mmoL) and stirred for an additional 3 h. The reaction mixture was concentrated under vacuum and the white solid was suspended in ethanol (150 mL) and stirred for 2 days. The solid was collected by filtration and washed with cold ethanol to yield (R)-1-chloro-3-(4-methylsulfonyl-1-piperazinyl)-2-propanol (5.69 g) as a white solid which was used without further purification. (m/z): [M+H]+ calcd for C8H17ClN2O3S, 257.07; found 257.2. 1H-NMR (DMSO-d6): δ (ppm) 2.37 (dd, 1H), 2.45 (dd, 1H), 2.50-2.58 (m, 4H), 2.86 (s, 3H), 3.09 (m, 4H), 3.55 (dd, 1H), 3.65 (dd, 1H), 3.84 (m, 1H), 5.09 (d, 1H).

reactant | (R)-Epichlorohydrin | 39.5 mmol, 3.10 mL | C(Cl)[C@H]1CO1 | C3H5ClO
reactant | piperazine sulfonamide trifluoroacetic acid | 35.9 mmol, 10.0 g | FC(C(=O)O)(F)F.N1(CCNCC1)S(=O)(=O)N
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | (R)-1-chloro-3-(4-methylsulfonyl-1-piperazinyl)-2-propanol | 5.69 g | ClC[C@@H](CN1CCN(CC1)S(=O)(=O)C)O | C8H17ClN2O3S
